Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
prolonged latent phase
 
Major Surgical or Invasive Procedure:
vaginal delivery
 
History of Present Illness:
___ yo G1P0 at 40w1d with painful ctx, +bloody show, -LOF.
+FM. She was admitted earlier to L&D, however did not change her
cervix and declined augmentation, and so was transferred to 
___ for pain management.

 
Past Medical History:
PNC: 
- ___ ___ by ___
- Labs B Rh+ /- Abs /Rub immune /RPR nr /HBsAg neg /HIV neg /GBS
neg
- Screening: neg HbS, neg CF, declined ERA 
- FFS nl 
- GTT nl
- Issues 
 1) MVC ___, seen at ___ with reportedly normal fetal testing
and labs normal except for low platelets. Reported concerns for
IPV and saftey at home to resident there but returned home with
partner. Per ___ notes, OB providers called her to discuss with
no response, not seen by SW here. Patient declined but aware of  
the ___ resources.
2) history of thrombocytopenia. Pt reports history of
thrombocytopenia, plt normal at initial OB but nadired at 112
this pregnancy. 

OBHx:
- G1P0
 
GynHx:
- no abnl pap, neg fibroids, neg Gyn surgery, neg UTIs
 
PMH: denies
 
PSH: wisdom teeth extracted

 Meds: PNV 
 
All: no known drug allergies

 
Social History:
 
SHx: denies T/E/D

 
Pertinent Results:
___ 10:43AM   PLT COUNT-101*
___ 10:43AM   WBC-6.8 RBC-3.68* HGB-11.4* HCT-34.1* MCV-93 
MCH-30.9 MCHC-33.4 RDW-14.0
___ 12:40PM   PLT COUNT-105*
___ 12:40PM   WBC-8.4 RBC-3.84* HGB-11.8* HCT-35.8* MCV-93 
MCH-30.8 MCHC-33.0 RDW-14.1
 
Brief Hospital Course:
On ___ Ms. ___ was admitted to the antepartum service 
with prolonged latent phase of labor. She had declined labor 
augmentation and she received morhpine for pain relief. She 
remained stable and then on ___ she had an artificial 
rupture of membranes for labor augmentation. She then had a 
normal vaginal delivery after her labor began to progress. She 
had an uncomplicated post partum course and was discharged home 
on ___.
 
Discharge Medications:
1. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every 6 hours Disp #*30 Tablet Refills:*0
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg one tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg one capsule(s) by mouth 
twice per day Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
term pregnancy s/p vaginal delivery of live female infant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
routine PP instructions
 
Followup Instructions:
___